US05075330
According to the procedure of Example 62, 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine is reacted with 1.1 eq of methyl chloroformate in dioxane/water (2:1) in the presence of sodium acetate (2.5 eq). The crude product is recrystallized from isopropyl ether:cyclohexane to give pure [[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-lH-indol-3-yl]methyl]hydroxycarbamic acid, methyl ester (63%); mp 113°-114° C.

reactant | 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CNO)C)C=C1 | C18H17ClN2O3
reactant | methyl chloroformate | 1.1 eq | ClC(=O)OC | C2H3ClO2
reactant | sodium acetate | 2.5 eq | C(C)(=O)[O-].[Na+]
solvent | dioxane water | O1CCOCC1.O
product | [[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-lH-indol-3-yl]methyl]hydroxycarbamic acid, methyl ester | 63% | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CN(C(OC)=O)O)C)C=C1 | C20H19ClN2O5
